US08835465B2
2-Chloro-5-fluoro-6-(5-isopropoxy-1H-pyrazol-3-ylamino)nicotinonitrile
A solution of 5-isopropoxy-1H-pyrazol-3-amine (0.96 g, 6.8 mmol), 2,6-dichloro-5-fluoronicotinonitrile (1.3 g, 6.8 mmol), and triethylamine (0.9 g, 8.8 mmol) in THF (30 ml) was heated to 60° C. for 4 days, and then cooled to 25° C., at which point the product precipitated. The resulting solid was filtered and washed with hexanes (100 ml) to give the title compound (1.0 g, 50%). MS: Calcd.: 295. Found: [M+H]+ 296.

reactant | 5-isopropoxy-1H-pyrazol-3-amine | 6.8 mmol, 0.96 g | C(C)(C)OC1=CC(=NN1)N | C6H11N3O
reactant | 2,6-dichloro-5-fluoronicotinonitrile | 6.8 mmol, 1.3 g | ClC1=C(C#N)C=C(C(=N1)Cl)F | C6HCl2FN2
reactant | triethylamine | 8.8 mmol, 0.9 g | C(C)N(CC)CC | C6H15N
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 2-Chloro-5-fluoro-6-(5-isopropoxy-1H-pyrazol-3-ylamino)nicotinonitrile | 1.0 g, 50% | ClC1=C(C#N)C=C(C(=N1)NC1=NNC(=C1)OC(C)C)F | C12H11ClFN5O
